Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.743331114
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[H:11],3.46375963385
[H:12].[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.75326316476
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2],3.7768381116
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6],1.75775113914
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:12]([H:13])([H:14])[H:15].[O:8]=[C:9]([H:10])[H:11],0.709155612612
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[C:8][O:9][C:10]1([H:11])[H:12],-0.151049857461
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],2.32443881454
[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[H:11],-1.66496657102
[H:1][C:2][O:3][C:4]#[C:5].[O:6][H:7]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][H:7],-6.5535515348
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15],-5.22769024998
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:10][H:11].[O:9]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[O:10][H:11],-7.65208844361
[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.19825839554
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7],4.85014846037
[C:4]([O:5][H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C@:4]([O:5][H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.4124628976
[O:1]=[C:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:5].[O:1]=[C:2][O:3][C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],1.68460168534
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:4],4.79853084578
[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[H:14],3.0007229445
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][O:4][H:5],1.99166938763
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],3.12892981139
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-8.03910200506
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])[H:15]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([O:11][H:12])=[C:13]([H:14])[H:15],1.4930653754799998
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][H:10],4.11183022173
[O:1]=[C:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]=[C:8]([H:9])[H:10].[O:1][C:2]#[C:4][C:5]([H:6])([H:7])[H:11],3.89606963081
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]([H:9])[H:10].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],-4.31586822297
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])#[C:5][O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2],3.9825329677
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],4.434410812149999
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-6.14275045298
